2182-04-14 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Received a total of 4 units FFP, 1 unit pRBC's and i bag platlets.
   - Attempted RIJ but has difficult to thread vein and unable to obtain
   despite three different operators attempting.
   Allergies:
   Apple
   Unknown; Anaphy
   Peach
   Unknown; Anaphy
   Pear
   Unknown; Anaphy
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-4-14**] 04:05 AM
   Vancomycin - [**2182-4-14**] 05:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-14**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 64 (56 - 65) bpm
   BP: 80/40(50) {78/39(48) - 86/51(59)} mmHg
   RR: 21 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,355 mL
                                                                  1,724 mL
   PO:
           TF:
   IVF:
                                                                  3,000 mL
                                                                    550 mL
   Blood products:
                                                                    605 mL
                                                                  1,174 mL
   Total out:
                                                                    240 mL
                                                                     96 mL
   Urine:
                                                                    240 mL
                                                                     96 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,115 mL
                                                                  1,628 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///13/
   Physical Examination
   Gen: portuguese-speaking, chronically ill appearing, tired, NAD,
   jaundiced
   HEENT: Dry mucous membranes, Scleral icterus, Dobhoff tube in place, no
   oral thrush, ulcers or any other lesions, good dentition.
   Heart: RRR, no m,r,g
   Lungs: CTAB, no w/r/r
   Abdomen: Soft but firmers than admission, distended, non-tender to
   palpation, well-healed midline abdominal scar from cholecystectomy
   Extremities: trace lower extremity edema, no cyanosis/clubbing, warm
   and well perfused, 2+DP pulses bilaterally
   Neuro: mild asterixis, A+O x 2 (name, [**Hospital1 19**], did not know year), CN2-12
   intact grossly, strength 5/5 diffusely, sensation intact grossly
   Labs / Radiology
   50 K/uL
   8.2 g/dL
   88 mg/dL
   2.8 mg/dL
   13 mEq/L
   4.7 mEq/L
   73 mg/dL
   106 mEq/L
   136 mEq/L
   24.0 %
   2.5 K/uL
        [image002.jpg]
                             [**2182-4-13**]  11:35 PM
                             [**2182-4-14**]  03:09 AM
   WBC
   2.8
   2.5
   Hct
   23.9
   24.0
   Plt
   51
   50
   Cr
   2.8
   2.8
   Glucose
   88
   Other labs: PT / PTT / INR:23.1/47.1/2.2, ALT / AST:128/226, Alk Phos /
   T Bili:158/32.3, Lactic Acid:1.4 mmol/L, Albumin:3.7 g/dL, LDH:213
   IU/L, Ca++:8.5 mg/dL, Mg++:2.9 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   39yo female with cirrhosis [**1-21**] schistosomiasis complicated by portal
   hypertension, esophageal varices, ascites, and lower extremity edema,
   admitted for SBP and transferred to the MICU for hypotension.
   # Hypotension: Concern for intra-abdominal bleeding in the setting of
   recent para. Also would have high suspicion for sepsis in the setting
   of known infection. Had minimal response to IVF bolus on the floor.
   Additionally, she is likely very intravascularly dry, in addition to
   third-spacing of fluid into abdomen. Received albumin on the floor and
   about 4L fluid total overnight [**4-13**] to [**4-14**]. Also received 1 unit
   pRBC
s, 1 bag platlets and 4 bags FFP. She is afebrile, slightly low
   WBC. Due to low white counts and also some hypothermia, and concern for
   sepsis, antibiotics were broadened on [**4-13**] to vanc/zosyn.
   - s/p 4 units FFP, 1 unit platelets, 1 unit pRBC
s, now stable CBC and
   improved INR
   - cont to monitor cbc, coags, and replete as needed
   - f/u blood cx, urine cx, ascites fluid cx
   - cont vanc, zosyn
   - maintain [**1-22**] large bore IVS
   - may require central line but could not obtain RIJ overnight [**Date range (1) 7144**]
   despite 3 different operator attempts, flash obtained but not able to
   thread the vessel.
   - IVF bolus prn to maintain MAP>65, UOP>30cc/h
   - Hold Nadolol, Spironolactone
   # Acute on chronic anemia: She is guaiac positive. Her hct is below her
   baseline. There is concern that she could be bleeding into her abdomen
   and also has evidence of GI bleeding by guaiac positive stool. She
   received 1 unit pRBC
s overnight [**4-14**], also 1 bag platlets and 4 units
   FFP
   - maintain active type and screen
   - transfuse additional pRBCs if hct drops again
   - correct coagulopathy with FFP as needed
   # SBP: Positive 2/2 bottles for GNR on therapeutic tap [**4-11**]. Was on
   Cipro prophylaxis. Afebrile at home and here thus far.
   - cont vanc and zosyn
   - Albumin 1.5g/kg x 1 given [**4-13**], then 1g/kg x 1 to be given on Day 3
   ([**4-15**])
   - F/u speciation, sensitivities of peritoneal fluid culture
   - f/u urine cx and blood cx as above
   # Cirrhosis: Patient has cirrhosis [**1-21**] schistosomiasis. She is
   currently on the transplant list. MELD is 43. Also has grade I and II
   varices and portal gastropathy. INR went up from 2.7->3.6, likely in
   setting of cirrhosis and infection. LFTs, T bili, elevated but not
   significantly changed from baseline. Is on transplant list, with MELD
   score of 40 (max).
   - Continue lactulose, PPI
   - Hold Nadolol, Spironolactone given hypotension
   - Monitor daily LFTs, coags
   - vit K 5mg daily x3 doses
   # Acute renal failure: Cr baseline around 0.8. Last Cr in OMR prior to
   admission was 1.2 in outpt setting, now 2.8 which is down from peak of
   3.5. Likely [**1-21**] dehydration given low recent PO intake with infection.
   Has also had low urine ouptut. Has received 750cc IVF and albumin.
   Concern for hepatorenal but renal function did improve with IVF (got
   about 4L NS overnight [**4-13**] to [**4-14**]).
   - send urine lytes
   - monitor BUN/Cr
   - consider increase midodrine to 7.5mg TID, cont octreotide for
   hepatorenal
   - monitor UOP (has foley in place)
   - if becomes worse, will consult renal as patient may require bridge
   dialysis/CVVH until liver transplant
   # UTI: No urinary symptoms but UA is positive. Already on vanc/zosyn
   # Metabolic acidosis: Bicarb 13 on admit, likely secondary to renal
   disease (uremia, high phos).
   - Monitor daily BMP
   - Treating underlying infection
   # Hyponatremia: Chronic, likely secondary to cirrhosis.  Improved with
   IVF.
   - IVF, albumin given as above
   - Hold spironolactone
   - Continue to trend
   # GERD: Continue PPI
   # Depression: continue Celexa
   # FEN: clears for now given n/v, advance as tolerated.
   - Nutrition consult for tube feeds (Dobhoff in place)
   # Prophylaxis: Pneumoboots, PPI
   # Access: PIV x 2
   # Code: Full code
   # Dispo: ICU care
   # Contact:
   - [**Name (NI) 186**] [**Name (NI) 7126**] (HCP) [**Telephone/Fax (1) 7127**] cell
   - Sister [**Name (NI) 987**] (alternate HCP) [**Telephone/Fax (1) 7128**] cell; [**Telephone/Fax (1) 7129**] home
   ICU Care
   Nutrition: Plan to start tube feeds today.
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-4-13**] 08:28 PM
   18 Gauge - [**2182-4-14**] 12:21 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2182-04-15 07:01:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
   [**4-14**] Events:
   - Midodrine increased to 7.5 mg PO TID
   - Good UOP -640mL over last 24 hours
   - HCT 25.8-> 25.7-> 24.6, transfused one unit
   - BCx from [**4-13**] GPCs in pairs and clusters in one out of four bottles
   Allergies:
   Apple
   Unknown; Anaphy
   Peach
   Unknown; Anaphy
   Pear
   Unknown; Anaphy
   Last dose of Antibiotics:
   Vancomycin - [**2182-4-14**] 05:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2182-4-15**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-4-14**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-15**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 58 (56 - 64) bpm
   BP: 95/48(60) {81/42(52) - 105/57(67)} mmHg
   RR: 17 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
           Total In:
                                                                  2,651 mL
                                                                    605 mL
   PO:
           TF:
                                                                    183 mL
                                                                    244 mL
   IVF:
                                                                    889 mL
                                                                    120 mL
   Blood products:
                                                                  1,409 mL
                                                                    241 mL
   Total out:
                                                                  1,526 mL
                                                                    300 mL
   Urine:
                                                                    641 mL
                                                                    300 mL
   NG:
                                                                     95 mL
   Stool:
                                                                    790 mL
   Drains:
   Balance:
                                                                  1,125 mL
                                                                    305 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///14/
   Physical Examination
   Gen: portuguese-speaking, chronically ill appearing, tired, NAD,
   jaundiced
   HEENT: Dry mucous membranes, Scleral icterus, Dobhoff tube in place, no
   oral thrush, ulcers or any other lesions, good dentition.
   Heart: RRR, no m,r,g
   Lungs: CTAB, no w/r/r
   Abdomen: Soft but firmer than admission, distended, non-tender to
   palpation, well-healed midline abdominal scar from cholecystectomy
   Extremities: trace lower extremity edema, no cyanosis/clubbing, warm
   and well perfused, 2+DP pulses bilaterally
   Neuro: mild asterixis, A+O x 3 (name, [**Hospital1 19**], did not know year), CN2-12
   intact grossly, strength 5/5 diffusely, sensation intact grossly
   Labs / Radiology
   52 K/uL
   9.6 g/dL
   158 mg/dL
   2.5 mg/dL
   14 mEq/L
   4.1 mEq/L
   73 mg/dL
   108 mEq/L
   137 mEq/L
   28.3 %
   3.1 K/uL
        [image002.jpg]
                             [**2182-4-13**]  11:35 PM
                             [**2182-4-14**]  03:09 AM
                             [**2182-4-14**]  08:00 AM
                             [**2182-4-14**]  02:05 PM
                             [**2182-4-14**]  08:54 PM
                             [**2182-4-15**]  04:37 AM
   WBC
   2.8
   2.5
   3.0
   2.8
   3.1
   Hct
   23.9
   24.0
   25.8
   25.7
   24.6
   28.3
   Plt
   51
   50
   53
   47
   52
   Cr
   2.8
   2.8
   2.8
   2.5
   Glucose
   88
   121
   158
   Other labs: PT / PTT / INR:31.1/53.9/3.2, ALT / AST:120/206, Alk Phos /
   T Bili:131/14.0, Lactic Acid:1.4 mmol/L, Albumin:3.9 g/dL, LDH:170
   IU/L, Ca++:8.7 mg/dL, Mg++:3.0 mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
   39yo female with cirrhosis [**1-21**] schistosomiasis complicated by portal
   hypertension, esophageal varices, ascites, and lower extremity edema,
   admitted for SBP and transferred to the MICU for hypotension.
   # Hypotension: Concern for intra-abdominal bleeding in the setting of
   recent para. Also would have high suspicion for sepsis in the setting
   of known infection. Blood cultures
 bottles growing GPCs in pairs and
   clusters.  Antibiotics were broadened on [**4-13**] to vanc/zosyn.  Had
   minimal response to IVF bolus on the floor. Additionally, she is likely
   very intravascularly dry, in addition to third-spacing of fluid into
   abdomen. She is afebrile, slightly low WBC. - s/p 4 units FFP, 1 unit
   platelets, 2 unit pRBC
s, now stable CBC
   - cont to monitor cbc, coags, and replete as needed
   - f/u blood cx, urine cx, ascites fluid cx. Follow up blood culture
   speciations and sensitivities.
   - cont vanc, zosyn
   - obtain vanc trough given changing renal function
   - maintain [**1-22**] large bore IVS
   - IVF bolus prn to maintain MAP>65, UOP>30cc/h
   - Hold Nadolol, Spironolactone
   # Acute on chronic anemia: She is guaiac positive. Her hct is below her
   baseline. There is concern that she could be bleeding into her abdomen
   and also has evidence of GI bleeding by guaiac positive stool. She
   received 1 unit pRBC
s overnight [**4-14**].
   - maintain active type and screen
   - transfuse additional pRBCs for HCT<25
   - continue to check HCT [**Hospital1 **]
   - correct coagulopathy with FFP as needed
   # SBP: Positive 2/2 bottles for GNR resistant to cipro on therapeutic
   tap [**4-11**]. Was on Cipro prophylaxis. Afebrile at home and here thus
   far.
   - cont vanc and zosyn
   - Albumin 1.5g/kg x 1 given [**4-13**], then 1g/kg x 1 to be given on Day 3
   ([**4-15**])
   - F/u speciation, sensitivities of peritoneal fluid culture
   - f/u urine cx and blood cx as above
   # Cirrhosis: Patient has cirrhosis [**1-21**] schistosomiasis. She is
   currently on the transplant list. MELD is 42. Also has grade I and II
   varices and portal gastropathy. INR went up from 2.6->3.2 overnight,
   likely in setting of cirrhosis and infection. LFTs, T bili (36.6),
   elevated but not significantly changed from baseline. Is on transplant
   list, with MELD score of 40 (max).
   - Continue lactulose, PPI
   - Hold Nadolol, Spironolactone given hypotension
   - Monitor daily LFTs, coags
   - vit K 5mg daily x3 doses
   # Acute renal failure: Cr baseline around 0.8. Last Cr in OMR prior to
   admission was 1.2 in outpt setting, now 2.5 which is down from peak of
   3.5. Likely [**1-21**] dehydration given low recent PO intake with infection.
   Has also had low urine output, which seems to have improved overnight.
   Urine lytes from [**4-14**] Fe urea 28.25, and Na <10 consistent with
   prerenal state.
   Concern for hepatorenal but renal function did improve with IVF (got
   about 2.5L IVF and blood products overnight [**4-14**] to [**4-15**]).  - monitor
   BUN/Cr
   - consider increasing midodrine dose, octreotide and starting rifaximin
   for potential hepatorenal syndrome
   - monitor UOP (has foley in place)
   - obtain vanc trough given changing renal function
   - if worsens, will consult renal as patient may require bridge
   dialysis/CVVH until liver transplant
   # Cardiomegaly:  Heart size appears large on CXR. Most recent echo from
   [**2181-10-20**] unremarkable.
   - Consider repeat echo to eval for pericardial effusion vs. atrial
   dilation
   # UTI: No urinary symptoms but UA was positive on [**4-13**]. Already on
   vanc/zosyn
   # Metabolic acidosis: Bicarb 13 on admit, likely secondary to renal
   disease (uremia, high phos).  Bicarb of 14 today. Anion gap of 15.
   - Monitor daily BMP
   - Treating underlying infection
   # Hyponatremia: resolved. Likely secondary to cirrhosis.  Improved with
   IVF.
   - IVF, albumin given as above
   - Hold spironolactone
   - Continue to trend
   # GERD: Continue PPI
   # Depression: continue Celexa
   # FEN: clears for now given n/v, advance as tolerated.
   - Nutrition consult for tube feeds (Dobhoff in place)
   # Prophylaxis: Pneumoboots, PPI
   # Access: PIV x 2
   # Code: Full code
   # Dispo: ICU care
   # Contact:
   - [**Name (NI) 186**] [**Name (NI) 7126**] (HCP) [**Telephone/Fax (1) 7127**] cell
   - Sister [**Name (NI) 987**] (alternate HCP) [**Telephone/Fax (1) 7128**] cell; [**Telephone/Fax (1) 7129**] home
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2182-4-15**] 01:38 AM 35 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-4-14**] 12:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-04-16 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2182-4-15**] 12:27 PM
 TRANSTHORACIC ECHO - At [**2182-4-15**] 01:00 PM
 URINE CULTURE - At [**2182-4-15**] 04:15 PM
   - HCT 28.3 -> 26.7 -> 26.9
   - Echo: nl LV size and EF. mild MR, TR
   - d/c-ed Vanc. Will need to be re-dosed based on AM trough
   - peritoneal fluid growing Ecoli
   - per liver recs, patient needs to be on albumin 50g daily for
   hepatorenal syndrome. Decreased octreotide to 100
   - had some abdominal pain.
   Allergies:
   Apple
   Unknown; Anaphy
   Peach
   Unknown; Anaphy
   Pear
   Unknown; Anaphy
   Last dose of Antibiotics:
   Vancomycin - [**2182-4-14**] 05:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2182-4-16**] 03:36 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-16**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 58 (54 - 62) bpm
   BP: 96/51(62) {96/49(61) - 122/64(78)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,826 mL
                                                                    858 mL
   PO:
             TF:
                                                                    844 mL
                                                                    248 mL
   IVF:
                                                                    561 mL
                                                                    525 mL
   Blood products:
                                                                    241 mL
   Total out:
                                                                  1,550 mL
                                                                    940 mL
   Urine:
                                                                  1,550 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    276 mL
                                                                    -82 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   Gen: portuguese-speaking, chronically ill appearing, tired, NAD,
   jaundiced
   HEENT: Dry mucous membranes, Scleral icterus, Dobhoff tube in place, no
   oral thrush, ulcers or any other lesions, good dentition.
   Heart: RRR, no m,r,g
   Lungs: CTAB, no w/r/r
   Abdomen: Soft but firmer than admission, distended, non-tender to
   palpation, well-healed midline abdominal scar from cholecystectomy
   Extremities: trace lower extremity edema, no cyanosis/clubbing, warm
   and well perfused, 2+DP pulses bilaterally
   Neuro: mild asterixis, A+O x 3 (name, [**Hospital1 19**], did not know year), CN2-12
   intact grossly, strength 5/5 diffusely, sensation intact grossly
   Labs / Radiology
   61 K/uL
   9.6 g/dL
   139 mg/dL
   2.0 mg/dL
   17 mEq/L
   3.7 mEq/L
   68 mg/dL
   112 mEq/L
   140 mEq/L
   28.5 %
   3.4 K/uL
        [image002.jpg]
                             [**2182-4-13**]  11:35 PM
                             [**2182-4-14**]  03:09 AM
                             [**2182-4-14**]  08:00 AM
                             [**2182-4-14**]  02:05 PM
                             [**2182-4-14**]  08:54 PM
                             [**2182-4-15**]  04:37 AM
                             [**2182-4-15**]  11:57 AM
                             [**2182-4-15**]  05:40 PM
                             [**2182-4-16**]  03:48 AM
   WBC
   2.8
   2.5
   3.0
   2.8
   3.1
   3.4
   Hct
   23.9
   24.0
   25.8
   25.7
   24.6
   28.3
   26.7
   26.9
   28.5
   Plt
   51
   50
   53
   47
   52
   61
   Cr
   2.8
   2.8
   2.8
   2.5
   2.0
   Glucose
   88
   121
   158
   139
   Other labs: PT / PTT / INR:29.0/52.7/2.9, ALT / AST:121/202, Alk Phos /
   T Bili:120/39.0, Lactic Acid:1.4 mmol/L, Albumin:3.9 g/dL, LDH:205
   IU/L, Ca++:8.6 mg/dL, Mg++:2.9 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   39yo female with cirrhosis [**1-21**] schistosomiasis complicated by portal
   hypertension, esophageal varices, ascites, and lower extremity edema,
   admitted for SBP and transferred to the MICU for hypotension.
   # Hypotension: Concern for intra-abdominal bleeding in the setting of
   recent para. Also would have high suspicion for sepsis in the setting
   of known infection. Blood cultures
 bottles growing GPCs in pairs and
   clusters.  Antibiotics were broadened on [**4-13**] to vanc/zosyn.  Had
   minimal response to IVF bolus on the floor. Additionally, she is likely
   very intravascularly dry, in addition to third-spacing of fluid into
   abdomen. She is afebrile, slightly low WBC. - s/p 4 units FFP, 1 unit
   platelets, 2 unit pRBC
s, now stable CBC
   - cont to monitor cbc, coags, and replete as needed
   - f/u blood cx, urine cx, ascites fluid cx. Follow up blood culture
   speciations and sensitivities.
   - cont vanc, zosyn
   - obtain vanc trough given changing renal function
   - maintain [**1-22**] large bore IVS
   - IVF bolus prn to maintain MAP>65, UOP>30cc/h
   - Hold Nadolol, Spironolactone
   # Acute on chronic anemia: She is guaiac positive. Her hct is below her
   baseline. There is concern that she could be bleeding into her abdomen
   and also has evidence of GI bleeding by guaiac positive stool. She
   received 1 unit pRBC
s overnight [**4-14**].
   - maintain active type and screen
   - transfuse additional pRBCs for HCT<25
   - continue to check HCT [**Hospital1 **]
   - correct coagulopathy with FFP as needed
   # SBP: Positive 2/2 bottles for GNR resistant to cipro on therapeutic
   tap [**4-11**]. Was on Cipro prophylaxis. Afebrile at home and here thus
   far.
   - cont vanc and zosyn
   - Albumin 1.5g/kg x 1 given [**4-13**], then 1g/kg x 1 to be given on Day 3
   ([**4-15**])
   - F/u speciation, sensitivities of peritoneal fluid culture
   - f/u urine cx and blood cx as above
   # Cirrhosis: Patient has cirrhosis [**1-21**] schistosomiasis. She is
   currently on the transplant list. MELD is 42. Also has grade I and II
   varices and portal gastropathy. INR went up from 2.6->3.2 overnight,
   likely in setting of cirrhosis and infection. LFTs, T bili (36.6),
   elevated but not significantly changed from baseline. Is on transplant
   list, with MELD score of 40 (max).
   - Continue lactulose, PPI
   - Hold Nadolol, Spironolactone given hypotension
   - Monitor daily LFTs, coags
   - vit K 5mg daily x3 doses
   # Acute renal failure: Cr baseline around 0.8. Last Cr in OMR prior to
   admission was 1.2 in outpt setting, now 2.5 which is down from peak of
   3.5. Likely [**1-21**] dehydration given low recent PO intake with infection.
   Has also had low urine output, which seems to have improved overnight.
   Urine lytes from [**4-14**] Fe urea 28.25, and Na <10 consistent with
   prerenal state.
   Concern for hepatorenal but renal function did improve with IVF (got
   about 2.5L IVF and blood products overnight [**4-14**] to [**4-15**]).  - monitor
   BUN/Cr
   - consider increasing midodrine dose, octreotide and starting rifaximin
   for potential hepatorenal syndrome
   - monitor UOP (has foley in place)
   - obtain vanc trough given changing renal function
   - if worsens, will consult renal as patient may require bridge
   dialysis/CVVH until liver transplant
   # Cardiomegaly:  Heart size appears large on CXR. Most recent echo from
   [**2181-10-20**] unremarkable.
   - Consider repeat echo to eval for pericardial effusion vs. atrial
   dilation
   # UTI: No urinary symptoms but UA was positive on [**4-13**]. Already on
   vanc/zosyn
   # Metabolic acidosis: Bicarb 13 on admit, likely secondary to renal
   disease (uremia, high phos).  Bicarb of 14 today. Anion gap of 15.
   - Monitor daily BMP
   - Treating underlying infection
   # Hyponatremia: resolved. Likely secondary to cirrhosis.  Improved with
   IVF.
   - IVF, albumin given as above
   - Hold spironolactone
   - Continue to trend
   # GERD: Continue PPI
   # Depression: continue Celexa
   # FEN: clears for now given n/v, advance as tolerated.
   - Nutrition consult for tube feeds (Dobhoff in place)
   # Prophylaxis: Pneumoboots, PPI
   # Access: PIV x 2
   # Code: Full code
   # Dispo: ICU care
   # Contact:
   - [**Name (NI) 186**] [**Name (NI) 7126**] (HCP) [**Telephone/Fax (1) 7127**] cell
   - Sister [**Name (NI) 987**] (alternate HCP) [**Telephone/Fax (1) 7128**] cell; [**Telephone/Fax (1) 7129**] home
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2182-4-16**] 04:49 AM 35 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-4-14**] 12:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: